US04695575
A mixture of 3.14 parts of 7-(2-bromoethyl)-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]thiazin-6-one monohydrobromide, 3.5 parts of 3-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridin, 4 parts of sodium carbonate, 0.1 parts of potassium iodide and 90 parts of sodium carbonate, 0.1 parts of potassium iodide and 90 parts of N,N-dimethylformamide was stirred and heated overnight at 70° C. After cooling, water was added. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluant. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol. The salt was filtered off and dried, yielding 3.7 parts (61%) of 7-[2-[4-[[3 -[(4-fluorophenyl)methyl]-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]thiazin-6-one ethanedioate (1:2); mp. 190.5° C. (205).

reactant | 7-(2-bromoethyl)-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]thiazin-6-one monohydrobromide | Br.BrCCC1=C(N=C2SCCCN2C1=O)C
reactant | 3-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridin | FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)CC2CCNCC2 | C19H21FN4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[2-[4-[[3 -[(4-fluorophenyl)methyl]-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]thiazin-6-one ethanedioate | 61% | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCC2=C(N=C1SCCCN1C2=O)C | InChI=1S/C29H33FN6OS.C2H2O4/c1-20-24(28(37)35-13-3-17-38-29(35)32-20)11-16-34-14-9-21(10-15-34)18-26-33-25-4-2-12-31-27(25)36(26)19-22-5-7-23(30)8-6-22;3-1(4)2(5)6/h2,4-8,12,21H,3,9-11,13-19H2,1H3;(H,3,4)(H,5,6)
